US06559173B1
Under Ar(g), a solution of anhydrous acetonitrile (0.83 mL) in 25 mL anhydrous THF is cooled to −78° C. in a dry ice-acetone bath and then treated in dropwise fashion with 6.32 mL of a 2.5 M n-butyl lithium in hexanes. The reaction mixture is maintained at −78° C. for an additional 1 h and subsequently treated in dropwise fashion with a solution of 5 gms. of (3,5-bis-benzyloxy-phenyl)-acetic acid ethyl ester in 25 mL of anhydrous THF. The resulting solution is then stirred overnight at room temperature. Subsequently, the reaction mixture is diluted with ethyl acetate and then extracted with 10% NaOH(aq). The aqueous layer is acidified (pH 6-7) with a 1 M HCl(aq) solution affording a white precipitate. The precipitate is filtered and washed with water. The filtrate was then extracted ethyl acetate. The organic layer is concentrated in vacuo. The organic extraction yielded very little of the 3-(3,5-bis-benzyloxy-phenyl)-3-oxo-propionitrile, however, the precipitate isolated from the acidification of the original aqueous layer is indeed the desired 3-(3,5-bis-benzyloxy-phenyl)-3-oxo-propionitrile. Upon drying the precipitate in vacuo the desired 3-(3,5-bis-benzyloxy-phenyl)-3-oxo-propionitrile is isolated as a brownish white solid in the amount of 3.43 gms. (67% yield).

reactant | acetonitrile | 0.83 mL | C(C)#N | C2H3N
reactant | n-butyl lithium | 2.5 M | C(CCC)[Li]
reactant | (3,5-bis-benzyloxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C24H24O4
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | THF | 25 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3,5-bis-benzyloxy-phenyl)-3-oxo-propionitrile | 67% yield | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)C(CC#N)=O | C23H19NO3
